US09340546B2
To a solution of 3-nitro-4-(1H-pyrazol-1-yl)pyridine (410 mg, 2.15 mmol) in MeOH (15 mL) was added Pd on C (10%, wet, Degussa) (129 mg) and the reaction mixture was vigorously stirred overnight at RT under an atmosphere of hydrogen (balloon). The catalyst was filtered off and the filtrate was concentrated under reduced pressure yielding 4-(1H-pyrazol-1-yl)pyridin-3-amine. (285 mg, 82%). MS (ES+) 161.1.

reactant | 3-nitro-4-(1H-pyrazol-1-yl)pyridine | 2.15 mmol, 410 mg | [N+](=O)([O-])C=1C=NC=CC1N1N=CC=C1 | C8H6N4O2
solvent | MeOH | 15 mL | CO | CH4O
catalyst | Pd | [Pd] | Pd
product | 4-(1H-pyrazol-1-yl)pyridin-3-amine | N1(N=CC=C1)C1=C(C=NC=C1)N | C8H8N4
